US07989438B2
Step 4: (7S)-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7-[2-(methylamino)ethoxy]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide
Pd/C (1 eq) was added to a solution of (7S)-7-{2-[benzyl(methyl)amino]ethoxy}-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide (0.06 M) in MeOH. The resulting mixture was stirred for 12 h under H2 atmosphere. The mixture was filtered and then concentrated in vacuo to afford the title compound. The product was used in the next step without further purification. (ES+) m/z 629 (M+H)+.

reactant | (7S)-7-{2-[benzyl(methyl)amino]ethoxy}-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | 0.06 M | C(C1=CC=CC=C1)N(CCO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)NS(=O)(=O)N(C)CC(OC)OC)C=CC=C2)C | C39H50N4O7S
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 1 eq | [Pd] | Pd
product | (7S)-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7-[2-(methylamino)ethoxy]-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)OCCNC)C(=O)NS(=O)(=O)N(C)CC(OC)OC | C32H44N4O7S
